US07632832B2
Step E. Benzyl 4-[(2-amino-2-pyridin-4-ylethyl)amino]piperidine-1-carboxylate
Trifluoroacetic acid (5 mL) was added to a solution of benzyl 4-((tert-butoxycarbonyl){2-[(tert-butylsulfinyl)amino]-2-pyridin-4-ylethyl}amino)piperidine-1-carboxylate (230 mg, 0.412 mmol) in dichloromethane (10 mL). After 1 h, the reaction was concentrated, dissolved in methanol (5 μL), and treated with 4 N HCl in dioxane (4.12 mmol). After 1 h, the reaction was concentrated to give the title compound. MS 355.2 (M+1)

reactant | Trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | benzyl 4-((tert-butoxycarbonyl){2-[(tert-butylsulfinyl)amino]-2-pyridin-4-ylethyl}amino)piperidine-1-carboxylate | 0.412 mmol, 230 mg | C(C)(C)(C)OC(=O)N(C1CCN(CC1)C(=O)OCC1=CC=CC=C1)CC(C1=CC=NC=C1)NS(=O)C(C)(C)C | C29H42N4O5S
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 4.12 mmol | O1CCOCC1 | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | Benzyl 4-[(2-amino-2-pyridin-4-ylethyl)amino]piperidine-1-carboxylate | NC(CNC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C1=CC=NC=C1 | C20H26N4O2
